US07291618B2
Step 1—tert-Butyl (2S,4R)-2-{[(3R*,4S*)-3,4difluoropyrrolidin-1-yl]carbonyl}-4-hydroxypyrrolidine-1-carboxylate
(4R)-1-(tert-butoxycarbonyl)-4-hydroxy-L-proline (2.31 g, 10 mmol), was coupled with (3R,4S)-rel-3,4-difluoropyrrolidine hydrochloride (1.44 g, 10 mmol, Preparation 4), in a manner analogous to that described in Preparation 1, Step 1, to afford 2.15 g (67%) of the title product as an off-white foam. MS m/z 321 (MH+).

reactant | (4R)-1-(tert-butoxycarbonyl)-4-hydroxy-L-proline | 10 mmol, 2.31 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
reactant | (3R,4S)-rel-3,4-difluoropyrrolidine hydrochloride | 10 mmol, 1.44 g | Cl.F[C@@H]1CNC[C@@H]1F
product | 1—tert-Butyl (2S,4R)-2-{[(3R*,4S*)-3,4difluoropyrrolidin-1-yl]carbonyl}-4-hydroxypyrrolidine-1-carboxylate | 2.15 g, 67% | F[C@@H]1CN(C[C@@H]1F)C(=O)[C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C14H22F2N2O4
